* D:\Ideas\PPG lab\PPG lab.asc
I1 N018 0 PULSE(0 30u 1s 1u 1u 5s 10s)
I2 0 N018 SINE(0 10u 100)
I3 0 N018 PULSE(0 10u 0 1u 1u 100ms 1)
XU1 N018 0 N019 N005 0 TS912
XU2 N039 N041 N014 N005 0 TS912
C1 N041 N019 10µ
C2 N019 N018 1µ
R1 N019 N018 10k
R2 N039 N014 10k
R3 N046 N039 1k
R4 N041 N045 1Meg
V1 N045 0 2.5
V2 N005 0 5
V3 N046 0 2.5
V4 N036 0 PULSE(100m 400m 0 10m 10m 500m 1)
XU3 N025 N036 N030 N004 0 TS912
R5 N031 N030 1k
M1 N017 N031 N025 N025 BSS123
R6 N025 0 10
V5 N004 0 5
D1 N004 N017 NSCW100
V6 N037 0 2
R7 N038 N037 90k
R8 0 N038 10k
XU4 N022 N026 N027 N003 0 TS912
R9 N033 N032 1k
R10 0 N042 10
R12 0 N022 10k
R13 N022 N027 70k
XU5 N026 N038 N032 N003 0 TS912
I4 N008 0 PULSE(0 30u 1s 1u 1u 5s 10s)
I6 0 N008 PULSE(0 30u 1s 1u 1u 5s 10s)
XU6 N008 N027 N009 N003 0 TS912
C3 N034 N009 1µ
C4 N009 N008 1µ
R14 N009 N008 10k
I5 0 N008 SINE(0 10u 100)
R15 N034 0 1Meg
V7 N003 0 5
M2 N020 N033 N042 N042 BSS123
D2 N011 N020 NSCW100
R11 N003 N011 10
R16 N035 N001 90k
R17 0 N035 10k
XU7 N021 N023 N024 N002 0 TS912
R18 N029 N028 1k
R19 0 N040 10
R20 0 N021 10k
R21 N021 N024 70k
XU8 N023 N035 N028 N002 0 TS912
I7 N006 0 PULSE(0 30u 1s 1u 1u 5s 10s)
I8 0 N006 PULSE(0 30u 1s 1u 1u 5s 10s)
XU9 N006 N024 N007 N002 0 TS912
C5 N015 N007 10µ
C6 N007 N006 1µ
R22 N007 N006 10k
I9 0 N006 SINE(0 10u 100)
R23 N015 N044 1Meg
M3 N016 N029 N040 N040 BSS123
D3 N010 N016 NSCW100
R24 N002 N010 10
R25 N007 N043 1Meg
C7 N043 0 1µ
V8 N044 0 2.5
R26 N012 N044 1k
R27 N013 N012 10k
XU10 N012 N015 N013 N002 0 TS912
C8 N013 N012 1µ
V9 N002 0 5
V10 N051 0 2.5
R28 N043 N051 1Meg
R29 NC_01 N051 1Meg
R30 N048 N047 1Meg
XU11 N047 N043 N048 N002 0 TS912
XU12 N049 N051 N001 N002 0 TS912
R31 N049 N048 470k
R32 N050 N049 1Meg
C9 N001 N050 470n
R33 N001 0 1Meg
.model D D
.lib C:\Users\USER\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1s 0 100m
* The Reciever
* The Emitter
* Integration of Emiitter with Sensor
* PPG sensor with PI controller
* P Controller
* I Controller
.lib TS912.lib
.backanno
.end
